US04940710
1-Cyclopropyl-7-(3-cyclopropyl-1-piperazinyl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, monohydrochloride
A mixture of 1.405 g of 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 4.34 g of 2-cyclopropylpiperazine and 15 ml of pyridine was heated in a pressure bottle at 135° C. for 24 hours, then cooled and the pyridine removed under reduced pressure. The residue was purified by chromatography on silica gel, with chloroform:methanol:water:triethylamine (9.5:0.5:0.01:0.01). The solid (base form) was redissolved in ethanol, a few drops of concentrated hydrochloric acid were added and the solid collected, washed with cold ethanol, ether and dried, giving the desired products.

reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.405 g | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C13H9ClFNO3
reactant | 2-cyclopropylpiperazine | 4.34 g | C1(CC1)C1NCCNC1 | C7H14N2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 1-Cyclopropyl-7-(3-cyclopropyl-1-piperazinyl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, monohydrochloride | Cl.C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C1CC1)F)=O)C(=O)O | InChI=1S/C20H22FN3O3.ClH/c21-15-7-13-17(24(12-3-4-12)9-14(19(13)25)20(26)27)8-18(15)23-6-5-22-16(10-23)11-1-2-11;/h7-9,11-12,16,22H,1-6,10H2,(H,26,27);1H
